resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.992179
R2 0 n2 1.016718
R3 0 n4 1.002532
R4 n1 n3 1.013356
R5 n1 n5 0.984264
R6 n2 n3 1.009251
R7 n2 n6 1.008381
R8 n3 n7 1.011301
R9 n4 n5 1.005466
R10 n4 n6 1.018042
R11 n5 n7 1.001872
R12 n6 n7 1.015444
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
